US05137897
a2) 3-(Ethoxycarbonyl)thiopropionamide
Hydrogen sulfide was introduced with stirring at room temperature into a solution of 31.8 g (0.25 mol) of ethyl 3-cyanopropionate and 34.6 ml (0.25 mol) of triethylamine in 75 ml of pyridine for 9 hours. After allowing to stand overnight, the reaction mixture is rendered acidic with 2N hydrochloric acid with cooling and extracted several times with ethyl acetate. The combined organic phase, which is dried over sodium sulfate, is carefully concentrated under reduced pressure. The oily residue remaining (35.0 g =87 % of theory) is composed of about 87 % of 3-(ethoxycarbonyl)thiopropionamide and 13 % of ethyl 3-cyanopropionate according to GC analysis.

reactant | Hydrogen sulfide | S | H2S
reactant | ethyl 3-cyanopropionate | 0.25 mol, 31.8 g | C(#N)CCC(=O)OCC | C6H9NO2
reactant | triethylamine | 0.25 mol, 34.6 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | 3-(Ethoxycarbonyl)thiopropionamide | C(C)OC(=O)CCC(=S)N | C6H11NO2S
